US05807873
To a suspension of 140 g of nicotinic acid chloride hydrochloride in 500 ml of fluorobenzene cooled to 0° C. are added 280 g of aluminum chloride portionwise. The mixture is held under reflux for 6 hours, cooled and then poured onto ice. After the addition of sodium hydroxide up to pH=8, the mixture is extracted with dichloromethane. The organic phase is dried over magnesium sulfate and then evaporated under vacuum. The residue crystallizes in a pentane/diisopropyl ether mixture giving 108.5 g of 3-(4-fluorobenzoyl)pyridine in the form of crystals melting at 91° C.

reactant | nicotinic acid chloride hydrochloride | 140 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | aluminum chloride | 280 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | fluorobenzene | 500 ml | FC1=CC=CC=C1 | C6H5F
product | 3-(4-fluorobenzoyl)pyridine | 108.5 g | FC1=CC=C(C(=O)C=2C=NC=CC2)C=C1 | C12H8FNO
